US05700809
(E)-3-(4-[2-Phenylethenyl]-1,2,3,6-tetrahydropyridin-1-yl)methyl-1H-pyrrolo[2,3-b]pyridine
A solution of (E)-4-(2-phenylethenyl)-1,2,3,6-tetrahydropyridine (204 mg, 1.1 mmol) and 3-dimethylaminomethyl-1H-pyrrolo[2,3-b]pyridine (192 mg, 1.1 mmol) [prepared by the method of M. M. Robison and B. L. Robison, J. Am. Chem. Soc.,1955, 77, 457] in toluene (15 ml) was stirred under reflux for 24 h. The hot solution was filtered and the filtrate allowed to cool, giving the title compound (196 mg, 55%) as a pale brown solid, m.p. 210°-212° C.; (Found: C, 80.43; H, 6.45; N, 13.18. C21 H21N3O. 0.1 PhMe requires: C, 80.31; H, 6.74; N, 12.95%); δH (CDCl3) 2.42 (2H, br s, 3'-CH2), 2.72-2.75 (2H, m, 2'-CH2), 3.20 (2H, br s, 6'-CH2), 3.83 (2H, s, CH2N), 5.82 (1H, br s, CH=CR), 6.44 (1H, d, J 16.1 Hz, CH=CHPh), 6.78 (1H, d, J 16.3 Hz, CH=CHPh), 7.07-7.10 (1H, m, 5-H), 7.17-7.21 (1H, m, ArH), 7.26-7.31 (3H, m, ArH), 7.38-7.40 (2H, m, ArH), 8.09 (1H, dd, J 7.9, 1.5 Hz, 4-H), 8.31 (1H, dd, J 4.8, 1.5 Hz, 4-H), and 9.31 (1H, br s, NH); m/z (CI+, NH3) 316 (M+1)+.

reactant | (E)-4-(2-phenylethenyl)-1,2,3,6-tetrahydropyridine | 1.1 mmol, 204 mg | C1(=CC=CC=C1)/C=C/C=1CCNCC1 | C13H15N
reactant | 3-dimethylaminomethyl-1H-pyrrolo[2,3-b]pyridine | 1.1 mmol, 192 mg | CN(C)CC1=CNC2=NC=CC=C21 | C10H13N3
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-3-(4-[2-Phenylethenyl]-1,2,3,6-tetrahydropyridin-1-yl)methyl-1H-pyrrolo[2,3-b]pyridine | 196 mg, 55% | C1(=CC=CC=C1)/C=C/C=1CCN(CC1)CC1=CNC2=NC=CC=C21 | C21H21N3
